US06329381B1
6-Amino-9-benzyl-8-bromo-2-dimethylaminopurine
6-Amino-9-benzyl-2-dimethylaminopurine (66 mg, 0.25 mmol) was dissolved in a mixture of methylene chloride (50 ml) and acetic acid (10 ml). To the solution were added sodium acetate (202 mg, 2.46 mmol) and bromine (0.5 ml), and the mixture was stirred at room temperature for 1 hour. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, washed with aqueous saturated sodium hydrogen carbonate, dried on sodium sulfate and filtered. The solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (68 mg, yield 80%).

reactant | 6-Amino-9-benzyl-2-dimethylaminopurine | 0.25 mmol, 66 mg | NC1=C2N=CN(C2=NC(=N1)N(C)C)CC1=CC=CC=C1 | C14H16N6
reactant | sodium acetate | 2.46 mmol, 202 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-Amino-9-benzyl-8-bromo-2-dimethylaminopurine | 68 mg, yield 80% | NC1=C2N=C(N(C2=NC(=N1)N(C)C)CC1=CC=CC=C1)Br | C14H15BrN6
